US04657916
Preparation of 4-benzyloxy-2-(10-carboxydecyl) quinoline-N-oxide
In this example, 5 m moles of 4-benzyloxy-2-(10-formyldecyl) quinoline-N-oxide is dissolved in acetone, and 10 m moles of Jones' reagent prepared from chromium trioxide, sulfuric acid and water is added thereto with ice cooling. The mixture is stirred for 5 minutes. After the reaction, water is added thereto, and the reaction mixture is extracted with chloroform. The extract is dried over anhydrous sodium sulfate, and then the solvent is removed therefrom by distillation. The residue is purified by silica gel column procedure, whereby the captioned compound is obtained as colorless crystals (yield: 31.0%).

reactant | 4-benzyloxy-2-(10-formyldecyl) quinoline-N-oxide | C(C1=CC=CC=C1)OC1=CC(=[N+](C2=CC=CC=C12)[O-])CCCCCCCCCCC=O | C27H33NO3
reactant | Jones' reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
catalyst | chromium trioxide | [O-2].[O-2].[O-2].[Cr+6]
product | 4-benzyloxy-2-(10-carboxydecyl) quinoline-N-oxide | yield: 31.0% | C(C1=CC=CC=C1)OC1=CC(=[N+](C2=CC=CC=C12)[O-])CCCCCCCCCCC(=O)O | C27H33NO4
